US08957080B2
Synthesis of (R)-2-(3-(4-amino-3-(4-(2,3-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 10 mL sealed tube, was placed a solution of 3-[(3R)-3-[4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile (150 mg, 0.31 mmol, 1.00 equiv) in methanol (5 mL), cyclopropanecarbaldehyde (64 mg, 0.91 mmol, 3.0 equiv), and piperidine (78 mg). The resulting solution was stirred for 12 h at 25° C. and then concentrated under vacuum. The residue was diluted with 10 mL of dichloromethane and the resulting mixture was washed with saturated aqueous ammonium chloride, water and brine and dried over anhydrous sodium sulfate and concentrated. The residue was loaded onto a silica gel column and elution with dichloromethane/methanol (20/1) gave 28.5 mg (17%) of the title compound as a white solid. LC-MS: (ES, m/z): 542 [M+H]1, H-NMR (300 MHz, CDCl3, ppm): δ 8.54 (s, 1H); δ7.68 (d, 2H); δ7.20 (d, 2H); δ7.16 (d, 2H); δ6.95 (m, 1H); δ6.55 (d, 1H); δ5.52 (s, 2H); δ6.98 (m, 1H); δ4.76 (m, 1H); δ4.34 (m, 1H); δ3.82 (m, 1H); δ3.23 (m, 1H); δ2.01˜δ2.42 (m, 4H); δ1.88 (m, 1H); δ0.85˜δ1.21 (m, 4H).

reactant | 3-[(3R)-3-[4-amino-3-[4-(2,3-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 0.31 mmol, 150 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C(=CC=C2)F)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H21F2N7O2
reactant | cyclopropanecarbaldehyde | 0.91 mmol, 64 mg, 3.0 equiv | C1(CC1)C=O | C4H6O
reactant | piperidine | 78 mg | N1CCCCC1 | C5H11N
solvent | methanol | 5 mL | CO | CH4O
product | (R)-2-(3-(4-amino-3-(4-(2,3-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile | 28.5 mg, 17% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=C(C(=CC=C2)F)F)[C@H]2CN(CCC2)C(=O)C(C#N)=CC2CC2 | C29H25F2N7O2
